data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)cc1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)cc2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)cc2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)cc2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(Cl)cc2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2(OC)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)C(OC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(OC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)C(OC)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(OC)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)C(OC)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2(F)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)C(F)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)C(F)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)C(F)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CC)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)c(Cl)c1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1Cl)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1Cl", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(F)c2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(F)c2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1Cl", "products": "O=C1CCN2C[C@H](OCc3cccc(F)c3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [], "steps": [{"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1C.C=O", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1C"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1C", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1C"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1C", "products": "C=[N+](O)[C@@H]1C(C)[C@H](CC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(C)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(C)[C@H](CC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(C)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "CC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1C"}]}
